US07772245B2
Methyl 2-(8-methyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate was obtained from Example 7 and 8-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole using the method described in Example 12. To a stirred solution of methyl 2-(8-methyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate (0.250 g, 0.776 mmol) in dry DCM, TFA (2.5 ml, 129.81 mmol) was added and stirred for 30 min. Then triethylsilane (2.5 ml, 62.6 mmol) was added at room temperature and stirred for 2 h. The progress of the reaction was monitored by TLC and after completion, the reaction mixture was diluted with DCM and washed with saturated solution of sodium bicarbonate and the organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to furnish methyl 2-(8-methyl-1,3,4,4a,5,9b-hexahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate (69 mg, 27.5%). 1H NMR (200 MHz, CDCl3): δ 1.69 (m, 2H), 2.35 (s, 3H), 2.7 (m; 2H), 3.01 (m, 4H), 3.90 (s, 3H), 6.23 (m, 1H), 6.80 (2H, m), 8.91 (s, 2H); m/e=325 (M+1).

reactant | methyl 2-(8-methyl-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate | 0.776 mmol, 0.250 g | CC1=CC=2C3=C(NC2C=C1)CCN(C3)C3=NC=C(C=N3)C(=O)OC | C18H18N4O2
reactant | TFA | 129.81 mmol, 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 62.6 mmol, 2.5 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 2-(8-methyl-1,3,4,4a,5,9b-hexahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate | 69 mg, 27.5% | CC1=CC=2C3C(NC2C=C1)CCN(C3)C3=NC=C(C=N3)C(=O)OC | C18H20N4O2
